US09328306B2
A reactor was charged with 0.2 g (0.005 mol) of sodium hydroxide (manufactured by Kanto Chemical Co., Inc.), 1 g of water, and 0.8 g (0.006 mol) of heptanoic acid (manufactured by Kishida Chemical Co., Ltd.), and the mixture was stirred. After the addition of 47 g of 2-propylheptanal, the mixture was bubbled with air at 40° C. for 15 hours. The mixture was stirred at 130° C. for 4 hours with nitrogen bubbling to obtain crude 2-propylheptanoic acid.

reactant | sodium hydroxide | 0.005 mol, 0.2 g | [OH-].[Na+]
reactant | heptanoic acid | 0.006 mol, 0.8 g | C(CCCCCC)(=O)O | C7H14O2
reactant | 2-propylheptanal | 47 g | C(CC)C(C=O)CCCCC | C10H20O
solvent | water | 1 g | O | H2O
product | 2-propylheptanoic acid | C(CC)C(C(=O)O)CCCCC | C10H20O2
